US05716954
To a suspension of 8-(3-chlorophenyl) pyrido[2,3-d]pyridazin-5-one (0.21 g, 0.82 mmoles) in tetrahydrofuran (25 ml) was added 3-thiophenemethanol (0.085 ml, 0.9 moles) and triphenyl phosphine (0.32 g, 1.22 moles). To this mixture was added a solution of diisopropyl azodicarboxylate (0.24 ml, 1.22 moles) in tetrahydrofuran (5 ml) in a dropwise manner. The solution was stirred for 3 hours at room temperature. The solvent was removed and the residue chromatographed from hot methanol, yielding 0.15 g of 6-(3-thienylmethyl)-8-(3-chlorophenyl) pyrido[2,3-d]pyridazin-5-one, mp 165°-166° C.

reactant | 8-(3-chlorophenyl) pyrido[2,3-d]pyridazin-5-one | 0.82 mmoles, 0.21 g | ClC=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8ClN3O
reactant | 3-thiophenemethanol | 0.9 moles, 0.085 ml | S1C=C(C=C1)CO | C5H6OS
reactant | triphenyl phosphine | 1.22 moles, 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.22 moles, 0.24 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6-(3-thienylmethyl)-8-(3-chlorophenyl) pyrido[2,3-d]pyridazin-5-one | 0.15 g | S1C=C(C=C1)CN1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)Cl | C18H12ClN3OS
